Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___ Containing / Cardizem / Morphine / Vancomycin / 
Penicillins / Propofol Analogues / glucose gel / gabapentin / 
Nortriptyline / nystatin
 
Attending: ___
 
Chief Complaint:
Loss of consciousness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y M with complicated medical hx including CAD s/o CABG, DM, 
COPD, CKD, CHF, who presented with recently underwent cord 
decompression ___, presenting with witnessed syncopal episode 
from home.  Patient is accompanied by his wife who provides some 
of the history as well. Patient was reportedly sitting at home 
in his wheelchair when he told his wife that he was feeling 
unwelling. He saw bright lights, which he typically sees when he 
is hypoglycemic. He asked his wife to check his blood sugars 
which were found to be in the ___. Patient subsequently slumped 
over in chair, no headstrike. His wife kept calling his name and 
rubbing his chest to which he would briefly wake up. She 
subsequently called EMS who found patient to have 
SBP70s/dopplerable (BP typically runs ___ and sugar in 
the ___ for which he was given ___ amp D50 with improvement in 
sugars to 100s. Lantus had been administered 30 minutes prior to 
event. Per report, patient was confused and reporting he 
couldn't see because of bright lights. He states he always has 
difficulty seeing and notes bright lights when he is 
hypoglycemic. He also noted associated nausea at the time. He 
received 2 of Narcan PTA for pinpoint pupils. Last dose of 
___ was early morning of day of 
presentation. Patient and wife deny taking extra doses of 
narcotics. He was arousable on arrival to ED. 

Patient was seen by PCP on day of admission for routine visit 
with no noted abnormalities. Of note, patient was recently 
admitted (___) for upper extremity weakness and pain with 
findings of cervical myelopathy for which he underwent anterior 
diskectomy ___ with fusion on ___. During this 
hospitalization, he was also found to have decompensated dCHF. 
No imaging including ___ was done at that time. Last ___ ___ 
showed EF>55%. He was 237lbs on discharge. Only medication 
change during this visit was changing lantus to evening (though 
keeping same dose) and decreasing sliding scale. Patient is 
scheduled for second part of surgery (posterior approach on 
___. His wife has noticed that patient has had decreased po 
intake since the surgery and has been increasingly vegetative 
over hte last week. No major changes in medication other than 
lantus being administered in evening instead of morning as was 
done prior to surgery. No history of seizures or nonpurposeful 
movement per wife. No bowel/bladder incontinence. Patient has 
been compliant with all medications. 

Patient always sleeps in a chair upright. He has been dependent 
on a walker since the week prior to his surgery though he used a 
walker previously. Wife has noted increasing lower extrmeity 
swelling and decreased appetite. 

In the ED initial vitals were: 10 97.5 81 101/45 18 94% 4LNC   
- Labs were significant for urine/serum tox negative, u/a 
negative, lactate 2.0, trop 0.08, Creat 2.0 (baseline ___, 
BNP 336, with leukocytosis 16.3.    
- Pertinent imaging includes negative CT head, CXR with patchy 
opacities in the lung bases, likely atelectasis., CT C ___ 
with marked prevertebral soft tissue swelling. 
- Patient was given aspirin.

Vitals prior to transfer were: HR70 100/60 RR24 99 RA%
On the floor, patient notes fatigue but otherwise denies any 
pain. He notes very mild shortness of breath. He states he feels 
much better than prior to arrival. Wife states he does not 
appear to be at baseline since he appears increasingly tired. 
Paitent intermittently nods off during interview but is awake 
and conversant by the end of our iterview. Patient bradycardic 
to ___ overnight.

Review of Systems:  
(+) per HPI. Intermittent chills since surgery.
(-) fever, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, dysuria, hematuria.  
 
Past Medical History:
CAD  
- s/p MI ___ with PCI to LAD ___  
- s/p CABGx4 ___ (___), after 
___ cath before arthroplasty revealed 3VD
Type 2 DM on insulin  
Hypertension
Hyperlipidemia
Obesity  
Trivial MR ___ on ___ ___ that was otherwise normal with 
EF>55%)  
Chronic peripheral edema  
Proteinuria and CKD (baseline Cr 1.4)  
Depression  
Glaucoma  
Tobacco use  
Peripheral neuropathy  
Low back pain  
s/p lumbar spinal fusion ___  
s/p lumbar laminectomy ___  
s/p lipoma excision from right forearm ___  
s/p removal of bone spurs from knees bilaterally  
s/p right hip arthroplasty ___
 
Social History:
___
Family History:
Father: CAD
Mother: Type 2 DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals - T98.1 146/61 74 20 98%RA 241BS, 227lbs (Weight 237 on 
discharge ___  
GENERAL: NAD, oriented x 3, intermittently drowsing off during 
interview though more awake by end  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry mucous membranes
NECK: nontender supple neck, no LAD, unable to assess JVD given 
cervical collar in place but no notable purulence from site of 
prior surgery, steri strips in place  
CARDIAC: RRR, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: mild erythema of b/l ___ (noted to be chronic) with 
1+ pitting edema up to knees; moving all 4 extremities with 
purpose  
NEURO: CN ___ intact, unable to dorsiflex/plantar flex R foot
SKIN: warm and well perfused, b/l ___ erythema with 1+ pitting 
edema extending up to knees; poor skin turgor of inner thigh

DISCHARGE PHYSICAL EXAM:
GENERAL: NAD, oriented x3
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry mucous membranes
NECK: no JVD, no purulence or erythema at prior site of surgery 
with Steri strips in place  
CARDIAC: RRR, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: mild erythema of b/l ___ (noted to be chronic) with 
1+ pitting edema up to knees; moving all 4 extremities with 
purpose  
SKIN: warm and well perfused, b/l ___ erythema with 1+ pitting 
edema extending up to knees
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:50PM   ___ 
___
___ 06:50PM   ___ 
___
___ 06:50PM   ___ 
___ 
___
___ 06:50PM   PLT ___ TO  PLT ___ TO 
___ 06:50PM   ___ 
___
___ 06:50PM   ___
___ 06:50PM   ___
___ 06:50PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 06:57PM   ___
___ 08:10PM URINE  ___ SP ___
___ 08:10PM URINE  ___ 
___ 
___
___ 08:10PM URINE  ___ 
___
___ 08:10PM URINE  ___
___ 08:10PM URINE  ___ 
___

PERTINENT LABS
==============
___ 06:50PM BLOOD ___
___ 01:29AM BLOOD ___ MB ___
___ 10:30AM BLOOD ___ MB ___

DISCHARGE LABS
==============
___ 01:29AM BLOOD ___ 
___ Plt ___ TO 
___ 01:29AM BLOOD ___ 
___
___ 01:29AM BLOOD ___ ___
___ 01:29AM BLOOD ___ 
___
___ 10:30AM BLOOD CK(CPK)-420*
___ 01:29AM BLOOD ___

MICROBIOLOGY
============
___ 6:50 pm BLOOD CULTURE
   Blood Culture, Routine (Pending): 

___ 7:00 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.
   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      Reported to and read back by ___ ___ 17:17. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 

___ 8:10 pm URINE
   URINE CULTURE (Final ___: 
      ENTEROBACTER CLOACAE COMPLEX.    ___ 
ORGANISMS/ML.. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROBACTER CLOACAE COMPLEX
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

RADIOLOGY
=========
___ ___ W/O CONTRAST
FINDINGS: 
The patient is status post anterior cervical fusion accomplished 
by anterior plate with 4 pairs of vertebral body screws and 
intervertebral disc spacers spanning C3 to C6. No hardware 
complications or acute fracture is noted. Degenerative changes 
including posterior osteophytosis causes severe central canal 
narrowing from C4 to C7 as well as multilevel bilateral moderate 
to severe neural foraminal narrowing, most pronounced at ___.  
Mild anterolisthesis at ___ is similar to ___ 
(602b:44).  Marked prevertebral soft tissue swelling is noted 
likely secondary to postsurgical changes, and no loculated fluid 
collection is seen. The visualized lung apices are clear. 
IMPRESSION:  
1. Degenerative changes including posterior osteophytosis from 
___ cause severe central canal narrowing. Evaluation for 
intrathecal mass or infection is not well assessed on CT and can 
be further evaluated with MRI.
2.  Marked prevertebral soft tissue swelling is likely secondary 
to postsurgical changes, and no loculated fluid collection is 
seen. An MRI with contrast can be obtained if there is continued 
clinical concern for infection. 

___ (SINGLE VIEW)
FINDINGS:
The patient is status post median sternotomy and CABG. Heart 
size is normal. Mediastinal and hilar contours are unremarkable. 
No pulmonary edema is demonstrated. Patchy opacities in the lung 
bases likely reflect areas of atelectasis. No focal 
consolidation, pleural effusion or pneumothorax is identified. 
Cervical spinal fusion hardware is partially imaged. 
IMPRESSION: 
Patchy opacities in the lung bases, likely atelectasis.

___ HEAD W/O CONTRAST
FINDINGS: 
No evidence of hemorrhage, edema, mass effect, or acute large 
territorial infarction.Mild prominence of the ventricles and 
sulci are consistent with ___ cortical volume loss.Faint 
periventricular and subcortical white matter hypodensity is most 
likely sequelae of chronic small vessel ischemic disease.
The basal cisterns are patent and there is preservation of 
___ matter differentiation.
No fracture identified. Mild mucosal thickening of the left 
sphenoid sinus. The visualized paranasal sinuses, mastoid air 
cells, and middle ear cavities are otherwise clear. The globes 
are unremarkable.
IMPRESSION: 
Chronic changes as described above. No intracranial hemorrhage. 
Of note MR is more sensitive in the detection of subtle 
abnormalities and infection.

OTHER STUDIES
=============
___
Sinus rhythm. ___ interval prolongation. T wave flattening in 
leads I and aVL. Compared to the previous tracing of ___ 
there is probably no significant change.

 
Brief Hospital Course:
SUMMARY: ___ with a complicated medical history including CAD 
s/p CABG, DM, COPD, CKD, CHF, and ?autoimmune disease recently 
underwent cord decompression surgery on ___ and presented 
from home after a witnessed syncopal event, likely due to 
hypoglycemia from poor nutrition and fluid intake. The patient 
requested to be discharged before a full work up could be 
pursued.

ACTIVE ISSUES

# Syncope
The etiology of the syncope was not certain, but the cause is 
likely due to hypoglycemia. The patient recently had surgery and 
has not been eating as well as he normally does (~25% of his 
normal nutrition). However, he still takes the same amount of 
insulin as he previously did, and he took 84 units of insulin 
glargine about 30 minutes prior to the episode. While glargine 
is not typically a peaking insulin, the large amount in 
combination with 2 units of insulin lispro likely pushed him 
into a range that is low for him. Previously, he has had similar 
hypoglycemic episodes with finger stick in the ___. No other 
obvious causes were identified. He did not have medication 
changes. His chest ___ was unrevealing and UA was normal. 
There were no symptoms or findings to suggest stroke or seizure. 
His EKG was at baseline, and he had no biomarker increase. A ___ 
was ordered for the patient. The patient was very adamant about 
being discharged on the day of admission, and he refused to 
stay. Given, his preferences, he was discharged with 
instructions to reduce his insulin by 50% and follow up with PCP 
and ___ provider to adjust insulin to his dietary intake.

# Bacteremia
Shortly before leaving, the microbiology lab reported a positive 
blood culture with gram positive cocci in clusters. Given his 
lack of symptoms and quick improvement and the patient's wishes 
to still be discharged, it was thought that the cultures were 
likely contaminant and coagulase negative Staph. He was sent 
home with instructions to return if blood cultures grow S. 
aureus or if he develops a fever or feels unwell at all. He 
acknowledged understanding this plan.

ATTENDING ADDENDUM -- Cultures returned ___ coag negative staph 
-- no further workup needed (attributing this to contaminant).  
The resident team indicated they would notify the patient of 
this result.

CHRONIC ISSUES

# Cervical Myelopathy
The patient is  s/p ___ ACDF with Dr. ___ Orthopedic 
___. There were no concerning symptoms at this admission. 
Further treatment and work up will be continued as outpatient.

# Unresolved Leukocytosis
Patient has had a long standing leukocytosis of unclear 
etiology. It was presumed to be secondary to surgery or 
infection on prior admissions. At this point, with no fevers or 
localizing symptoms, probability of infection was thought to be 
low.

# Diabetes
Home insulin regimen was held with a modified sliding scale used 
while inpatient. Please see above for syncope. He was discharged 
with instructions to take half (42U insulin glargine QPM) of his 
regular regimen (84U insulin glargine QPM).

TRANSITIONAL ISSUES
- Lantus decreased to 42U daily, will need FSG trended at next 
outpt PCP appt
- ___ must schedule outpt PCP appt in next 7 days
- Pt should stop lisinopril dosing until his BP is ___ at 
___'s office as he didnt need it during hospitalization and may 
have contributed to syncope
- Pt would likely benefit from outpt ___ to ___ whether or 
not he has CHF 
- Pt will need to be evaluated by primary care doctor prior to 
planned surgical procedure next week to ensure that he is 
medically stable. Results should be communicated to Dr. ___

# Code: DNR/DNI
# Emergency Contact: ___ (wife, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 400 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Pravastatin 80 mg PO QPM 
4. Citalopram 20 mg PO DAILY 
5. Furosemide 40 mg PO DAILY 
6. Metolazone 5 mg PO 2X/WEEK (___) 
7. Aspirin 325 mg PO DAILY 
8. ___ 1 TAB PO ___ PRN 
pain 
9. Glargine 84 Units Dinner
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: home dose

10. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
12. Zolpidem Tartrate ___ mg PO QHS:PRN Insomnia 
13. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
14. ___ Cream 1 Appl TP BID 
15. alpha lipoic acid ___ mg oral Daily 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Glargine 42 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
4. Pravastatin 80 mg PO QPM 
5. Nystatin Oral Suspension 5 mL PO QID 
RX *nystatin 100,000 unit/mL 4 mL by mouth four times a day 
Refills:*0
6. alpha lipoic acid ___ mg oral Daily 
7. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
8. Furosemide 40 mg PO DAILY 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
10. Metolazone 5 mg PO 2X/WEEK (___) 
11. Metoprolol Succinate XL 400 mg PO DAILY 
12. ___ Cream 1 Appl TP BID 
13. ___ 1 TAB PO ___ PRN 
pain 
14. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
15. Zolpidem Tartrate ___ mg PO QHS:PRN Insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope
Hypoglycemia

 
Discharge Condition:
Discharge Condition: Stable, improved
Mental Status: AOx3
Ambulatory Status: BAseline

 
Discharge Instructions:
It was a pleasure taking care of you while you were hospitalized 
at ___. As you know, you were admitted after passing out 
at home. Our workup was unrevealing as to what caused you to 
pass out, but it seems that your low sugars may have been the 
cause. Since you are eating less after your surgery, your 
insulin needs are much lower. Accordingly, you will need to 
decrease your lantus dosing as we had discussed. It would have 
been preferable to test you on this new regimen during your 
hospitalization, but we understand that it is your wish to be 
discharged home now that you are feeling better. We hope that 
you continue to feel well. 

Below are a summary of your medication changes:
-Please decrease Lantus to 42 units
-Please hold further lisinopril dosing until you are seen by 
your primary care doctor 
 
 
Followup Instructions:
___